US07622583B2
To a stirred suspension of Fe (176 mg, 3.15 mmol) in glacial acetic acid (5 mL) was added a solution 4-chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin -3-yl]-3-trifluoromethyl-benzenesulfonamide (410 mg, 0.788 mmol) in AcOH (5 mL) at 80° C. for 15 minutes. After complete addition the mixture was stirred at the same temperature for 30 minutes and the progress of the reaction was followed by LCMS. The reaction mixture was then cooled to room temperature and it was then diluted with EtOAc and filtered through a pad of Celite. The filtrate was concentrated under reduced pressure and residue was portioned between NaHCO3 and EtOAc. The organic portion was separated and the aqueous portion was extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide. 1H MR (400 MHz, CDCl3) δ 8.98 (s, 1 H), 8.42 (d, J=2.4 Hz, 1 H), 8.12 (d, J=2.0 Hz, 1 H), 7.93 (d, J=2.4 Hz, 1 H), 7.64-7.61 (m, 1 H), 7.30-7.26 (m, 2 H), 7.03-7.00 (m, 1 H), 6.64 (d, J=8.4 Hz, 1 H), 6.47-6.43 (m, 1 H), 6.26 (s, 2 H); Mass spectrum m/z: 490.0 (M+H).

reactant | 4-chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin -3-yl]-3-trifluoromethyl-benzenesulfonamide | 0.788 mmol, 410 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C(F)(F)F | C19H10Cl2F3N3O5S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Fe | 3.15 mmol, 176 mg | [Fe] | Fe
product | N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide | NC1=C(C(=O)C2=NC=C(C=C2NS(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl)C=CC=C1 | C19H12Cl2F3N3O3S
